US08669234B2
2-[5-Formyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.625 g, 4.11 mmol) and dimethyl-1-diazo-2-oxopropylphosphonate (1.056 g, 5.50 mmol) were dissolved in 1:1 MeOH/THF (10 mL) and potassium carbonate (1.14 g, 8.25 mmol) was added. After stirring for 200 min, more potassium carbonate (1.14 g, 8.25 mmol) was added. 45 min later, the reaction mixture was poured into 100 mL 1:1 water/saturated aqueous sodium bicarbonate. The aqueous phase was extracted 3 times with diethyl ether. The combined organic phases were dried with magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (20% to 45% EtOAc/hexanes) to afford 2-[5-Ethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.234 g, 77%).

reactant | 2-[5-Formyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.11 mmol, 1.625 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C(=CN1)C=O)COCC[Si](C)(C)C | C19H33N3O4Si
reactant | dimethyl-1-diazo-2-oxopropylphosphonate | 5.50 mmol, 1.056 g | CC(C(C(=[N+]=[N-])P([O-])([O-])=O)=O)C
reactant | potassium carbonate | 8.25 mmol, 1.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 8.25 mmol, 1.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | MeOH THF | 10 mL | CO.C1CCOC1
product | 2-[5-Ethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.234 g, 77% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C(=CN1)C#C)COCC[Si](C)(C)C | C20H33N3O3Si
